US05011825
(f) Fmoc-Arg-Ile-Val-Arg-Ile-OBzl
3.3 g of DCC are added, at 0° C., to a stirred solution of 7.4 g (15 mmol) of Fmoc-Arg-Ile-OH, 7.15 g of H-Val-Arg-Ile-OBzl and 2.44 g of HOObt in 150 ml of dimethylformamide. The working-up is carried out in analogy to Example 2b. The dried residue is triturated with ethyl acetate, filtered off with suction and dried.

reactant | DCC | 3.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Fmoc-Arg-Ile-OH | 15 mmol, 7.4 g | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C27H35N5O5
reactant | H-Val-Arg-Ile-OBzl | 7.15 g | N[C@@H](C(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1 | C24H40N6O4
reactant | HOObt | 2.44 g | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Fmoc-Arg-Ile-Val-Arg-Ile-OBzl | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C51H73N11O8
